US06184242B2
To a mixture of cyclopentanol (51.1 ml, 0.56 mol) and dioxane (50 mL) was added sodium hydride (60% in mineral oil, 4.91 g, 0.12 mol) at 0-5° C. under argon. The mixture was heated at 80° C. until an homogenous solution was observed. 2-Bromothiophene (10 g, 5.9 mL, 0.061 mol) was added at 80° C., followed by cuprous iodide (11.7 9, 0.061 mol). The mixture was heated at 120° C. for 6 hours. After cooling to 20-25° C., sodium cyanide (30 g, 0.61 mol) in water (200 mL) was added. The mixture was vigorously stirred for 20 minutes, filtered, and extracted with hexane. The hexane extract was washed with water, dried (Na2SO4), and concentrated to dryness. Filtration through a column (silica, 100% hexane) gave 2-cyclopentyloxythiophene (2.6 g, 25.2%) as a colorless oil; 1HNMR (300 MHz, CDCl3) δ 6.7 (dd, J=5.7, 3.7 Hz, 1H), 6.54 (dd, J=5.7, 1.5 Hz, 1H), /86.18 (dd, J=3.7, 1.5 Hz, 1H) 4.66 (Sept, J=2.7 Hz, 1H), 1.5-2.0 (m, 8H).

reactant | cyclopentanol | 0.56 mol, 51.1 ml | C1(CCCC1)O | C5H10O
reactant | sodium hydride | 0.12 mol, 4.91 g | [H-].[Na+]
reactant | 2-Bromothiophene | 0.061 mol, 5.9 mL, 10 g | BrC=1SC=CC1 | C4H3BrS
reactant | sodium cyanide | 0.61 mol, 30 g | [C-]#N.[Na+]
solvent | water | 200 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-cyclopentyloxythiophene | 2.6 g, 25.2% | C1(CCCC1)OC=1SC=CC1 | C9H12OS
